US08034812B2
Production of N-[4-(imidazo[1,2-b]pyridazin-6-yloxy)phenyl]-N′-phenylurea
To a solution of 4-(imidazo[1,2-b]pyridazin-6-yloxy)aniline (181 mg, 0.80 mmol) and triethylamine (0.011 mL, 0.08 mmol) in tetrahydrofuran (10 mL) was added phenyl isocyanate (0.104 mL, 0.96 mmol), and the mixture was stirred at room temperature for 18 hr. The reaction mixture was concentrated under reduced pressure, and the residue was purified by NH silica gel column chromatography (ethyl acetate/methanol=100/0→90/10) and precipitated from ethyl acetate to give the title compound (223 mg, 81%) as a white powder.

reactant | 4-(imidazo[1,2-b]pyridazin-6-yloxy)aniline | 0.80 mmol, 181 mg | N=1C=CN2N=C(C=CC21)OC2=CC=C(N)C=C2 | C12H10N4O
reactant | triethylamine | 0.08 mmol, 0.011 mL | C(C)N(CC)CC | C6H15N
reactant | phenyl isocyanate | 0.96 mmol, 0.104 mL | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | N-[4-(imidazo[1,2-b]pyridazin-6-yloxy)phenyl]-N′-phenylurea | 223 mg, 81% | N=1C=CN2N=C(C=CC21)OC2=CC=C(C=C2)NC(=O)NC2=CC=CC=C2 | C19H15N5O2
